US05618926
A stirred solution of 0.5 g (1.1 mmol) of N-[3-[(7,8-Didehydro-4,5-epoxy-6-hydroxy-17-methylmorphinan-3-yl)oxy]propoxy]-4-aminobenzamide in 10 ml of methylene chloride was treated with 0.5 g of solid anhydrous sodium bicarbonate followed by 150 ul (1.9 mmol) of thiophosgene and stirred at room temperature for 30 minutes. The solvent was removed in vacuo and the residue was chromatographed on 150 g of silica gel using 15% methanol-chloroform to give 230 mg of N-[3-[(7,8-Didehydro-4,5-epoxy-6-hydroxy-17-methylmorphinan-3-yl)oxy]propoxy]-4-isothiocyanatobenzamide as an amorphous solid.

reactant | N-[3-[(7,8-Didehydro-4,5-epoxy-6-hydroxy-17-methylmorphinan-3-yl)oxy]propoxy]-4-aminobenzamide | 1.1 mmol, 0.5 g | O1C2=C(C=CC=3C[C@@H]4[C@@H]5C=CC(C1[C@@]5(C23)CCN4C)O)OCCCONC(C4=CC=C(C=C4)N)=O | C27H31N3O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | thiophosgene | 1.9 mmol, 150 ul | C(=S)(Cl)Cl | CCl2S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[3-[(7,8-Didehydro-4,5-epoxy-6-hydroxy-17-methylmorphinan-3-yl)oxy]propoxy]-4-isothiocyanatobenzamide | 230 mg | O1C2=C(C=CC=3C[C@@H]4[C@@H]5C=CC(C1[C@@]5(C23)CCN4C)O)OCCCONC(C4=CC=C(C=C4)N=C=S)=O | C28H29N3O5S
